Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
IV Dye, Iodine Containing / lisinopril
 
Attending: ___.
 
Chief Complaint:
Incarcerated ventral hernia
 
Major Surgical or Invasive Procedure:
___ ventral hernia repair (Dr. ___

 
History of Present Illness:
___ w/ PMH of nephrolithiasis and laparoscopic sleeve 
gastrectomy ___ in ___ presents with recurrent episode 
of abdominal pain. She had the same pain one day ago associated 
with abdominal distension and presented to ___ where CT abd/pelv 
showed fat-containing umbilical and ventral hernias with 
adjacent fat stranding concerning for strangulation. She says 
the hernia was reduced at bedside and given morphine. Pain 
resolved, and she was discharged home. She returns today with 
the same pain. She denies fevers, chill, nausea, vomiting, or 
diarrhea. She endorses flatus, and states that her pain has 
improved with morphine.
 
Past Medical History:
Asthma, Bell's plays, h/o rheumatic fever, HTN, DMII, migraine 
headaches, obesity, depression, nephrolithiasis, adrenal adenoma

PSH: gastric sleeve ___ in ___
 
Social History:
___
Family History:
non-contributory
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
VS - 98.2 59 131/77 18 100% RA 
GEN: A&Ox3, NAD, obese
HEENT: No scleral icterus, mucus membranes moist
CV: RRR 
PULM: No respiratory distress
ABD: Soft, obese, non-distended. No visible mass/bulge. ~2cm
fascial defect can be felt on deep palpation. Moderate 
tenderness
on deep palpation.
Ext: No ___ edema, ___ warm and well perfused
 
Pertinent Results:
___ 07:00PM URINE  HOURS-RANDOM
___ 07:00PM URINE  UCG-NEGATIVE
___ 07:00PM URINE  COLOR-Yellow APPEAR-Clear SP ___
___ 07:00PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-TR 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-6.5 
LEUK-NEG
___ 07:00PM URINE  RBC-2 WBC-<1 BACTERIA-NONE YEAST-NONE 
EPI-4
___ 07:00PM URINE  MUCOUS-MANY
___ 04:47PM   LACTATE-1.3
___ 04:41PM   GLUCOSE-79 UREA N-13 CREAT-0.7 SODIUM-138 
POTASSIUM-4.3 CHLORIDE-102 TOTAL CO2-26 ANION GAP-14
___ 04:41PM   estGFR-Using this
___ 04:41PM   ALT(SGPT)-22 AST(SGOT)-20 ALK PHOS-66 TOT 
BILI-0.4
___ 04:41PM   LIPASE-29
___ 04:41PM   ALBUMIN-4.1
___ 04:41PM   WBC-8.2 RBC-3.82* HGB-11.4 HCT-35.0 MCV-92 
MCH-29.8 MCHC-32.6 RDW-12.3 RDWSD-40.7
___ 04:41PM   NEUTS-51.8 ___ MONOS-7.7 EOS-1.8 
BASOS-0.7 IM ___ AbsNeut-4.24 AbsLymp-3.10 AbsMono-0.63 
AbsEos-0.15 AbsBaso-0.06
___ 04:41PM   PLT COUNT-263
 
Brief Hospital Course:
Patient was admitted to the hospital with incarcerated but 
reducible ventral hernia. She was taken to the OR with Dr. ___ 
___ repair of the ventral hernia, which was uncomplicated. On 
hospital day 2 her diet was slowly advanced and she was 
ambulating. She tolerated regular diet on post-operative day 2, 
had bowel function, and her pain was well controlled with oral 
medication. She was therefore discharged from the hospital on 
___ with plan to follow up in clinic with Dr. ___
 
___ on Admission:
albuterol sulfate, meclizine
 
Discharge Medications:
1. Acetaminophen 1000 mg PO Q6H 
2. OxycoDONE (Immediate Release)  5 mg PO Q6H:PRN Severe pain 
Duration: 14 Days 
Do not drive.  
RX *oxycodone [___] 5 mg 1 tablet(s) by mouth every six (6) 
hours Disp #*60 Tablet Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Incarcerated ventral hernia

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Ms. ___,

You were admitted to the hospital with incarcerated ventral 
hernia, which was repaired surgically.

ACTIVITY:
You may resume regular activity. You may climb stairs. You may 
start
some light exercise when you feel comfortable. You may resume 
sexual
activity unless your doctor has told you otherwise.

HOW YOU MAY FEEL:
You may feel weak or "washed out" for 6 weeks. You might want to 
nap
often. Simple tasks may exhaust you. You might have trouble
concentrating or difficulty sleeping. You might feel somewhat
depressed. You could have a poor appetite for a while. Food may 
seem
unappealing. All of these feelings and reactions are normal and 
should go away in a short time.

YOUR BOWELS:
Constipation is a common side effect of medicine such as 
oxycodone,
Percocet or codeine. If needed, you may take a stool softener 
(such as Colace, one capsule) or gentle laxative (such as milk 
of magnesia, 1 tbs) twice a day. You can get both of these 
medicines without a prescription. If you go 48 hours without a 
bowel movement, or have pain moving the bowels, call your 
primary care doctor and the surgery office to schedule an 
appointment. Drink plenty of fluids. If you develop diarrhea, 
stop taking laxatives. If it does not go away, or is severe and 
you feel ill, please call your surgeon.

MEDICATIONS:
Take all the medicines you were on before the operation just as 
you
did before, unless you have been told differently. If you have 
any
questions about what medicine to take or not to take, please 
call your surgeon.

DANGER SIGNS:
Please call your surgeon and go to the nearest emergency room if 
you develop:
- sharp pain or any severe pain that lasts several hours
- pain that is getting worse over time
- pain accompanied by fever of more than 101
- a drastic change in nature or quality of your pain
- temperature of 101 degrees or higher
- severe diarrhea
- ___
 
Followup Instructions:
___